US09447090B2
To a solution of 3.4 g of 1-methyl-1H-indene in 136 ml of ether was added 16.2 ml of a 1.62 M n-butyllithium/hexane solution at −78° C., followed by stirring at room temperature for 30 minutes. To the reaction mixture were added 15.5 ml of tetra-iso-propyl titanate and 2.41 ml of methyl chloroformate at −78° C., followed by stirring at −78° C. for 2 hours. To the reaction mixture were added 1 M hydrochloric acid and ethyl acetate to carry out a layer separation operation, followed by drying over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.57 g of methyl 1-methyl-1H-indene-1-carboxylate.

reactant | 1-methyl-1H-indene | 3.4 g | CC1C=CC2=CC=CC=C12 | C10H10
reactant | n-butyllithium hexane | 1.62 M | C(CCC)[Li].CCCCCC
reactant | methyl chloroformate | 2.41 ml | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ether | 136 ml | CCOCC | C4H10O
catalyst | tetra-iso-propyl titanate | 15.5 ml | CC(C)O.CC(C)O.CC(C)O.CC(C)O.[Ti]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-methyl-1H-indene-1-carboxylate | 1.57 g | CC1(C=CC2=CC=CC=C12)C(=O)OC | C12H12O2
